US08497371B2
2-(4-{[(2-fluorophenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid (30)
Pipemidic acid (25 mg, 0.0824 mmol) and 2-fluorophenyl isothiocyanate (10 μL, 0.0824 mmol) were used. Purification on silica yielded compound 30 in Table 1, below (24 mg, 64%). 1H NMR (300 MHz, CDCl3) δ 9.35 (s, 1H), 8.69 (s, 1H), 7.64 (t, J=7.34 Hz, 1H), 7.21-7.12 (m, 3H), 4.35 (q, J=6.90 Hz, 2H), 4.28-4.02 (m, 8H), 1.50 (t, J=7.09 Hz, 3H) ppm.

reactant | Pipemidic acid | 0.0824 mmol, 25 mg | CCN1C=C(C(=O)C2=C1N=C(N=C2)N3CCNCC3)C(=O)O | C14H17N5O3
reactant | 2-fluorophenyl isothiocyanate | 0.0824 mmol, 10 μL | FC1=C(C=CC=C1)N=C=S | C7H4FNS
product | 2-(4-{[(2-fluorophenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid | FC1=C(C=CC=C1)NC(=S)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)CC | C21H21FN6O3S
